US09120777B2
D) Methyl 4-cyclobutyl-5-cyclopropyl-2-hydroxybenzoate
A methanol (100 mL) solution of methyl 2-(benzyloxy)-4-cyclobutyl-5-cyclopropylbenzoate (8.5 g) was deaerated for 20 minutes in a nitrogen stream. Then, 10% palladium carbon (containing 55% water, 1.1 g) was added thereto, and the mixture was stirred at room temperature for 3 hours in a hydrogen atmosphere. The reaction mixture was filtered through celite, and the solvent was distilled off under reduced pressure to obtain the title compound (6.0 g).

reactant | methyl 2-(benzyloxy)-4-cyclobutyl-5-cyclopropylbenzoate | 8.5 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C(=C1)C1CCC1)C1CC1 | C22H24O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 1.1 g | [C].[Pd]
solvent | methanol | 100 mL | CO | CH4O
product | Methyl 4-cyclobutyl-5-cyclopropyl-2-hydroxybenzoate | 6.0 g | C1(CCC1)C1=CC(=C(C(=O)OC)C=C1C1CC1)O | C15H18O3
